US05891882
2-Cyano-3,5-dichloropyridine
3,5-Dichloropyridine-N-oxide (10.0 g, 61 mmol), trimethysilylcyanide (25 mL, 183 mmol) and triethylamine (17 mL, 122 mmol) combined in acetonitrile (60 mL) and heated to reflux for 6 hr. The solvent was evaporated and the residue was partitioned between diethyl ether and 5% aq. NaHCO3. The organic phase was dried (MgSO4), evaporated, and the product purified by chromatography over silica gel to yield 10.0 g (97%) of the title compound: 1H NMR (300 MHz, CDCl3) δ 7.92 (d, 1H), 8.58 (d, 1H).

reactant | 3,5-Dichloropyridine-N-oxide | 61 mmol, 10.0 g | ClC=1C=[N+](C=C(C1)Cl)[O-] | C5H3Cl2NO
reactant | trimethysilylcyanide | 183 mmol, 25 mL | C[Si](C)(C)C#N | C4H9NSi
reactant | triethylamine | 122 mmol, 17 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | 2-Cyano-3,5-dichloropyridine | 10.0 g, 97% | C(#N)C1=NC=C(C=C1Cl)Cl | C6H2Cl2N2
